US04985560
N-(Bicyclo[3.2.1]oct-2-yl)-N'-(4-methylpyridazino[4,5-b]indolizin-1-yl) 1,2-ethanediamine
Following the procedure of Example 12, bicyclo[3.2.1]octan-2-one in methanol (3 to 4 mL) was added to a solution of N-(4-methylpyridazino[4,5-b]indolizin-1-yl)-1,2-ethanediamine hydrochloride in methanol/DMSO (90 mL:30 mL) which had been heated to boiling and then allowed to cool. After stirring at room temperature overnight, the title compound was obtained as the free base after column chromatography (silica gel, 4:1 methylene chloride:methanol to 100% methanol containing ammonium hydroxide) and recrystallized from isopropyl ether. The compound was converted to the dihydrochloride salt by ethanolic HCl, mp 339°-344° C.

reactant | bicyclo[3.2.1]octan-2-one | C12C(CCC(CC1)C2)=O | C8H12O
reactant | N-(4-methylpyridazino[4,5-b]indolizin-1-yl)-1,2-ethanediamine hydrochloride | Cl.CC1=NN=C(C=2C=C3C=CC=CN3C21)NCCN
solvent | methanol | 3 to 4 mL | CO | CH4O
solvent | methanol DMSO | 90 mL | CO.CS(=O)C
product | N-(Bicyclo[3.2.1]oct-2-yl)-N'-(4-methylpyridazino[4,5-b]indolizin-1-yl) 1,2-ethanediamine | C12C(CCC(CC1)C2)NCCNC2=NN=C(C1=C2C=C2C=CC=CN12)C | C21H27N5
